US04267190
4,5-Bis(4-fluorophenyl)-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanethiol
Into a solution of 2.6 g (0.01 mole) of 2,3-bis(4-fluorophenyl)-1H-pyrrole in 100 ml toluene was distilled 2.0 g (0.011 mole) of hexafluorothioacetone, prepared by pyrolysis of the dimer according to the method of W. J. Middleton et al., J. Org. Chem., 30, 1375 (1965). The mixture was stirred at room temperature approximately one-half hour, then was concentrated by rotary evaporation. The residue was purified by chromatography on silica gel, eluting with hexane/toluene (80/20). The chromatographed product was recrystallized from hexane to give 1.0 g of product, m.p. 114°-115°.

reactant | 2,3-bis(4-fluorophenyl)-1H-pyrrole | 0.01 mole, 2.6 g | FC1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)F | C16H11F2N
reactant | hexafluorothioacetone | 0.011 mole, 2.0 g | FC(C(=S)C(F)(F)F)(F)F | C3F6S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Bis(4-fluorophenyl)-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanethiol | 1.0 g | FC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)F)C(S)(C(F)(F)F)C(F)(F)F | C19H11F8NS
